US06660744B1
A mixture of cis-2-(3-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenoxy)benzaldehyde (0.102 g, 0.199 mmol, 1 equiv), glyoxal (0.12 mL, 0.99 mmol, 5 equiv), and ammonium carbonate (0.078 g, 0.99 mmol, 5 equiv) in methanol (1 mL) was stirred at ambient temperature for 16 h. Additional glyoxal (0.20 mL, 1.6 mmol, 8.3 equiv) and ammonium carbonate (0.130 g, 1.66 mmol, 8.4 equiv) were added and the reaction mixture was stirred at ambient temperature for 24 h. The crude reaction mixture was purified by preparative RP-HPLC (Rainin C18, 8 μm, 300 Å, 25 cm; 10%-60% acetonitrile-0.1M ammonium acetate over 20 min, 21 mL/min). The acetonitrile was removed in vacuo and the aqueous mixture was lyopholyzed to give cis-3-{3-[2-(1H-2-imidazolyl)phenoxy]phenyl}-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine as a brown solid (0.010 g, 0.018 mmol): 1H NMR (d6 DMSO, 400 MHz): 6H 8.23 (1H, s), 8.11-8.13 (1H, dd, J=7.7, 1.9 Hz), 7.95 (1H, s), 7.66 (2H, d, J=8.5 Hz), 7.34-7.39 (1H, m), 7.23-7.27 (3H, m), 7.07-7.19 (3H, m), 4.77-4.82 (1H, m), 2.16-2.56 (11H, m), 2.14 (3H, s), 2.05-2.11 (2H, m), 1.55-1.71 (4H, m); RP-HPLC (Delta Pak C18, 5 μm, 300 Å, 15 cm; 5%-85% acetonitrile-0.1M ammonium acetate over 20 min, 1 mL/min) Rt 10.43 min. MS: MH+ 550.

reactant | cis-2-(3-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenoxy)benzaldehyde | 0.199 mmol, 0.102 g, 1 equiv | NC1=C2C(=NC=N1)N(N=C2C=2C=C(OC1=C(C=O)C=CC=C1)C=CC2)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C29H33N7O2
reactant | glyoxal | 0.99 mmol, 0.12 mL, 5 equiv | C(=O)C=O | C2H2O2
reactant | ammonium carbonate | 0.99 mmol, 0.078 g, 5 equiv | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | glyoxal | 1.6 mmol, 0.20 mL, 8.3 equiv | C(=O)C=O | C2H2O2
reactant | ammonium carbonate | 1.66 mmol, 0.130 g, 8.4 equiv | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | methanol | 1 mL | CO | CH4O
product | cis-3-{3-[2-(1H-2-imidazolyl)phenoxy]phenyl}-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.018 mmol, 0.010 g | N1C(=NC=C1)C1=C(OC=2C=C(C=CC2)C2=NN(C3=NC=NC(=C32)N)[C@@H]3CC[C@@H](CC3)N3CCN(CC3)C)C=CC=C1 | C31H35N9O
